Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Minoxidil
 
Attending: ___.
 
Chief Complaint:
Pheochromocytoma

 
Major Surgical or Invasive Procedure:
___ R adrenalectomy

 
History of Present Illness:
___ history of type 1 diabetes status post deceased donor
kidney transplantation on ___ and pancreas-after-kidney 
on
___, the latter which eventually failed. During his past
admission from ___ for nephrolithiasis in the
transplanted kidney, an incidental right adrenal mass measuring
4.4cm was seen on CT. Outpatient workup of this lesion included
an MRI on ___ which showed a 4.9 x 4.4 x 4.1 cm mass is located
in the right adrenal gland. Elevated urine and plasma
metanephrines were consistent with pheochromocytoma. Pt has been
on alpha blockade with Terazosyn since ___, increased on 
___.
He is postural on BP testing with a drop from 160/60 to 140/60
admitted tonight for IV fluids to improve his intravascular
stores in preparation for his surgery tomorrow ___. Also
needs repair of umbilical hernia. Bowels are normal, no 
abdominal
pain. Denies sick contacts, chest pain, shortness of breath
.

 
Past Medical History:
1. Diabetes Mellitus, Type I - since age ___
2. ESRD ___ CRT ___ - post-op course complicated by delayed 
graft function and hydronephrosis ___ ureteral stent and 
percutaneous nephrostomy in ___.  Now with renal insufficiency 
with baseline creatinine 2.0.
3. Pancreas transplant ___, rejected ___
4. h/o Partial SBO - treated conservatively
5. Hypertension
6. Coronary Artery Disease ___ stent of Ramus Intermedius in 
___
7. Paroxysmal Atrial Fibrillation
8. ___ ventral hernia repair with mesh in ___
9. Orthostatic hypotension
___ malleolar fracture ___ - treated with Keflex and 
Vicodin. Ortho evaluation ___ - no infection, no ulcer.
.

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
VS: 97.3, 62, 175/78, 18, 100%RA 85.2 kg
General: Appears well, engages easily, non-icteric,
alert/oriented
HEENT: Non-icteric sclera, has had laser surgery, right ear with
bandaid ___ mohs procedure, moist mucous membranes, cracked 
tooth
left upper, no LAD
Card: III/VI systolic murmur, regular rate and rhythm, no rub or
gallop
Lungs: CTA bilaterally
Abdomen: soft, protruding/reducible umbilical hernia at site of
old pancreas incision, + BS
Extr: Left leg with bandage on shin, also ___ mohs procedure. 1+
edema bilateral lower extremities, 
Skin: warm and dry
Neuro: EOMI, PERRL, no focal deficits

 
Pertinent Results:
___ 06:15AM BLOOD WBC-8.1 RBC-3.28* Hgb-9.2* Hct-28.4* 
MCV-87 MCH-27.9 MCHC-32.3 RDW-14.3 Plt ___
___ 04:40AM BLOOD ___ PTT-28.2 ___
___ 06:15AM BLOOD Glucose-86 UreaN-51* Creat-2.5* Na-141 
K-4.3 Cl-111* HCO3-20* AnGap-14
___ 05:32AM BLOOD ALT-29 AST-15 AlkPhos-58 TotBili-0.4
___ 06:15AM BLOOD Calcium-8.0* Phos-4.9* Mg-1.9
 
Brief Hospital Course:
He was admitted to the transplant service for pre-op management 
in anticipation
of adrenalectomy the next day, but surgery was postponed 2 days 
in order to continue IV hydration and up titration of alpha 
blockade per endocrinology to prevent intraop hypertension and 
postop hypotension. 

On ___, he underwent right adrenalectomy and ventral hernia 
repair with mesh for Pheochromocytoma and ventral hernia. 
Surgeon was Dr. ___. Please refer to operative note. A 
___ ___ drain was placed beneath the flaps. He had BPs ~ 200 on 
Nitroprusside with sudden drop to ___ with use of phenylephrine. 
BP stabilized and pressure support was weaned off. PACU course 
was notable for extubation and BP stabilized. One unit of PRBC 
was given. He deveoped hypoglycemia. Several amps of dextrose 
were given and a 20% Dextrose continuous infusion was given. 
Endocrinology felt this was due to abrupt catecholamine 
withdrawal. He was given Hydrocortisone 100mg then prednisone 
5mg qd was started. He was transferred to the SICU for 
management. Dextrose was weaned off and an IV drip was started 
to prevent ketoacidosis. 

He was kept npo and given TPN. Abdomen was firmly distended and 
NG remained in place. Hydralazine was given intermittently for 
SBP ranging between 170-180s. On ___, creatinine trended up 3.6 
from baseline of 2.5. Possibilities for ARF included hypotension 
intraop and neoral toxicity. Urine lytes were consistent with 
ATN. Home dose of Neoral continued at 100mg bid. A renal U/S was 
done showing no hydronephrosis or perinephric fluid collection 
of the left lower quadrant transplanted kidney. Resistive 
indices ranged from 0.81 to 0.87 which were stable, with a 
stable slightly echogenic appearance of the transplanted kidney. 

  
On ___, he had a temp of 101.7. UA was positive with 29 wbc, 
few bacteria and no epi's. He also had a RLL atelectasis and 
effusion noted on CXR. Cipro was started. Urine culture was 
negative. Fever abated.

He was transferred out of SICU on ___. Renal function improved 
with IV hydration. Diet was slowly advanced and TPN stopped. 
Insulin drip was stopped and Lantus with sliding scale was 
added. Blood sugar control improved. IV hydration was 
discontinued due to some sob. O2 was 96% RA. CXR on ___ 
revealed mild pulmonary congestion. CXR on ___ showed a right 
lower lobe opacity unchanged, a small right pleural effusion and 
a tiny left pleural effusion. Pulmonary edema was slightly 
improved. Mild cardiomegaly was stable 

His incision developed erythema on ___ and Vancomycin was 
started. JP was removed on ___. He received 3 days of vanco 
from ___ thru ___ with improvement. Vancomycin was switched to 
Levaquin for 10 days. Creatinine improved to 2.5. 

Pathology findings were consistent with pheochromocytoma. 

___ evaluated and declared him safe for discharge to home. At 
time of discharge he was amulating independently, vitals were 
stable and he was tolerating a regular diet. 

 
Medications on Admission:
Alendronate 70mg PO QWeek, Norvasc 10mg PO QDay, Cinacalcet
30mg PO Qday, Clonidine 0.2mg TD Patch Qweek (sat), Neoral 100mg
PO BID, Lasix 20mg PO PRN (last ___, Lantus SC 15 AM, 10 ___,
Lispro SS, Lisinopril 20mg PO BID, Lopressor 25mg PO BID,
Cellecpt 1000mg PO BID, Protonix 40mg PO QDay, Pravastatin 80mg
PO QDay, Prednisone 5mg PO Qday, Terazosyn 2 mg PO QHS, Bactrim
SS ___ 81mg PO QDay Last 6 ___ ago, Calcium+D QDay

 
Discharge Medications:
1. Levaquin 250 mg Tablet Sig: One (1) Tablet PO once a day for 
10 days.
Disp:*10 Tablet(s)* Refills:*0*
2. Cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Cyclosporine Modified 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
4. Mycophenolate Mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 0.5 Tablet 
PO DAILY (Daily).  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
9. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
11. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
12. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
13. Metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 
hours).  
14. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed.  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
16. Insulin Glargine 100 unit/mL Solution Sig: Ten (10) units 
Subcutaneous at bedtime.  
17. Insulin Lispro 100 unit/mL Solution Sig: follow sliding 
scale  Subcutaneous four times a day.  
18. Calcium 500 + D 500 mg(1,250mg) -200 unit Tablet Sig: One 
(1) Tablet PO once a day.  
19. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pheochrocytoma
DM
___ renal transplant
cellulitis
ARF, resolving
pheochromocytoma

 
Discharge Condition:
good

 
Discharge Instructions:
Please call the Transplant office ___ if fever, chills, 
nausea, vomiting, dizziness, inability to take any of your 
medication, incision redness/drainage
No heavy  lifting
___ shower

 
Followup Instructions:
___